US08022206B2
{6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-3-yl}-methanol
To a solution of 6-amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridine-3-carboxylic acid methyl ester (140 mg, 0.35 mmol) in THF (5 mL) was added 0.7 mL of LiAlH4 (1M solution in THF, 0.7 mmol) at 0° C. under nitrogen. The mixture was slowly warmed to rt. The reaction was quenched with EtOAc (25 mL), then water (1 mL). The organic phase was separated and washed with brine (10 mL), and dried over anhydrous sodium sulfate. The residue was purified by silica gel chromatography (Hex:EtOAc=50:50→100% EtOAc) to give the title compound as a white solid. LC-MS (ES+): 370.95/372.94 [MH+]. 1H NMR (CDCl3, 400 MHz): δ 1.66 (br s, 1H), 1.86 (d, J=6.6 Hz, 3H), 4.73 (br s, 2H), 4.79 (s, 2H), 6.53 (q, J=6.8 Hz, 1H), 7.04 (m, 1H), 7.27 (m, 1H), 7.37 (s, 1H), 8.10 (s, 1H).

reactant | 6-amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridine-3-carboxylic acid methyl ester | 0.35 mmol, 140 mg | COC(=O)C1=COC2=C1C=NC(=C2O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl)N | C17H13Cl2FN2O4
reactant | LiAlH4 | 0.7 mmol, 1M, 0.7 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | {6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-3-yl}-methanol | NC1=C(C2=C(C=N1)C(=CO2)CO)O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl | C16H13Cl2FN2O3
